Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Iodine; Iodine Containing
 
Attending: ___.
 
Chief Complaint:
Left upper extremity DVT, thoracic outlet syndrome
 
Major Surgical or Invasive Procedure:
___ L basilic/brachial vein lysis
___ L brachial/basilic vein PTA
___ L 1st rib resxn & L SCV stent 
___ mini-sternotomy, L subclavian v patch angioplasty
___ L cimineo fistula, FTSG from thigh to L volar forarm
___ L brachial/basilic vein PTA
___ L inonamate vein and subclavian angioplasty

 
History of Present Illness:
___ man who is a  left-handed ___ who noticed left 
arm/shoulder pain which persisted over several days and lead to 
Left upper extremity swelling.  No complaints of loss of motor 
function or sensation.  No prior episodes.  A reported 
ultrasound at ___ demonstrated non-collapsible left subclavian 
vein and he was transferred to ___ for further evaluation 
under the care of Dr. ___.

 
Past Medical History:
None.
 
___: L knee arthroscopy ___

 
Social History:
___
Family History:
N/C
 
Physical Exam:
VS: 97.6-99  HR: 80   BP: 120/59  RR: 16    Spo2: 98%
Gen: NAD, alert and oriented x3
CV: RRR
Resp: CTA-B
Abd: s/nt/nd
Extr: left upper extremity wound dressed with xerofoam and 
kerlex. AV fistual + thrill
RUE ___   palp /rad   palp 
LUE ___   palp /rad palp

 

 
Pertinent Results:
___ 06:45AM BLOOD Hct-32.5*
___ 03:11AM BLOOD WBC-5.5 RBC-2.98* Hgb-8.8* Hct-25.3* 
MCV-85 ___-29.6 MCHC-34.8 RDW-16.5* Plt ___
___ 10:15PM BLOOD Neuts-60.7 ___ Monos-4.3 Eos-0.9 
Baso-0.5
___ 06:25AM BLOOD ___
___ 10:25PM BLOOD ___ 06:45AM BLOOD UreaN-17 Creat-0.7 K-4.4
___ 03:50AM BLOOD Glucose-119* UreaN-7 Creat-0.6 Na-138 
K-3.6 Cl-105 HCO3-28 AnGap-9
___ 03:50AM BLOOD Calcium-8.1* Phos-3.5 Mg-2.0
___ 02:45PM BLOOD pO2-72* pCO2-71* pH-7.22* calTCO2-31* 
Base XS-0
___ 11:59AM BLOOD Glucose-104 Lactate-0.9 Na-136 K-4.2 
Cl-103
___ 02:45PM BLOOD Hgb-7.6* calcHCT-23
___ 02:45PM BLOOD freeCa-1.17

___ ___ M  ___ 
 
Radiology Report MRV CHEST W&W/O CONTRAST Study Date of ___ 
12:55 ___ 
 
  
___ VICU ___ 12:55 ___ 
MRV CHEST W&W/O CONTRAST   Clip # ___   
Reason: Please evaluate patency of the brachiocephalic and 
subclavia 
Contrast: MULTIHANCE Amt: 34CC 
 

 
Radiology Report CHEST (PA & LAT) Study Date of ___ 10:23 
AM 
 
  
___ VICU ___ 10:23 AM 
CHEST (PA & LAT)   Clip # ___   
Reason: pnx, pna  
 

 
UNDERLYING MEDICAL CONDITION: 
   ___ year old man with s/p chest tube removal, please evaluate 
for pnx  
REASON FOR THIS EXAMINATION: 
   pnx, pna  

 
 
Final Report 
PA AND LATERAL CHEST, ___ 
  
HISTORY: Chest tubes removed. Check for pneumothorax. 
  
IMPRESSION: AP chest compared to ___: 
  
Left apical pleural thickening has decreased substantially since 
___. A 
17-mm wide round opacity projecting over the right first rib 
anteriorly could 
be residual left pleural effusion. Lordotic view would be 
helpful in better 
definition. Lungs are otherwise clear. No pleural effusion. No 
mediastinal 
widening, cardiomegaly, or evidence of central lymph node 
enlargement. 
  
___. ___ 
___: ___ 2:48 ___ 
 

UNDERLYING MEDICAL CONDITION: 
   ___ year old man with ___ syndrome s/p 1st rib, 
SCV graft and SCV  
   angioplasty.  
REASON FOR THIS EXAMINATION: 
   Please evaluate patency of the brachiocephalic and subclavian 
vein graft.  
CONTRAINDICATIONS FOR IV CONTRAST: 
   None. 

 
 
Provisional Findings Impression: ___ MON ___ 10:14 ___ 
___: Two paired venous structures adjacent to the axillary 
artery remain 
patent and join to form a patent subclavian vein. The previously 
visualized 
lesion of stenosis at the central aspect of the subclavian vein 
and 
brachiocephalic vein has shown minor interval improvement with 
respect to 
patency. No filling defects identified. 
  
Complex fluid collection in the surgical bed has shown mild 
interval decrease 
in size. 
  
No other changes identified. 

 
Preliminary Report !! ___ !!  
___: Two paired venous structures adjacent to the axillary 
artery remain 
patent and join to form a patent subclavian vein. The previously 
visualized 
lesion of stenosis at the central aspect of the subclavian vein 
and 
brachiocephalic vein has shown minor interval improvement with 
respect to 
patency. No filling defects identified. 
  
Complex fluid collection in the surgical bed has shown mild 
interval decrease 
in size. 
  
No other changes identified. 
  
___. ___ 
___ entered: MON ___ 10:14 ___ 
 
_
_
_
_
_
_
_
_
_
________________________________________________________________

 
Brief Hospital Course:
___ 
Patient transferred to ___ for non-collapsible left subclavian 
vein. Admitted to Dr. ___ service. Chest CT 
obtained. Heparin gtt initiated for anticoagulation. Left 
brachial and radial palpable. Thoracic surgery consulted for 
management of Paget-Schrotter's' syndrome. 

History of operative procedures:

___:
OPERATION PERFORMED:
1. Ultrasound-guided puncture of left basilic vein.
2. Ultrasound-guided puncture of left brachial vein.
3. Bilateral introduction of catheter into superior vena
    cava.
4. Left subclavian venogram and superior vena cavogram.
5. AngioJet thrombolysis of left basilic vein.
6. AngioJet thrombolysis of left brachial vein.
7. AngioJet thrombolysis of left subclavian vein.

___:
OPERATION PERFORMED:
1. Venogram of left basilic vein.
2. Venogram of left brachial vein.
3. Left basilic vein venogram.
4. Balloon angioplasty of left subclavian vein extending
    into the brachial vein.
5. Angioplasty of left subclavian vein extending into the
    basilic vein.

___:
PROCEDURE:  Resection of left first rib through
paraclavicular approach, extensive external venolysis and
left  subclavian stent placement, left upper extremity
venography.

___:
PROCEDURE:  Partial sternotomy, venolysis of the left
subclavian, innominate, axillary, brachial and basilic veins.
Removal of left subclavian vein stent. Patch angioplasty of
the left subclavian, axillary, innominate vein using the
right greater saphenous vein.

___:
PROCEDURES PERFORMED:
1. Ultrasound-guided puncture of left forearm basilic vein.
2. Ultrasound-guided puncture of left upper arm brachial
    vein.
3. Superior vena cava catheter placement.
4. Left basilic vein angiogram.
5. Left brachial vein angiogram.
6. Left subclavian vein angiogram.
7. Superior venacavogram.
8. Rheolytic thrombectomy of left basilic, brachial, subclavian,
inominate veins
9. Balloon angioplasty of left subclavian vein.
10. Balloon angioplasty of left basilic vein.
11.Balloon angioplasty of left brachial vein.
12.Balloon angioplasty of left mid upper arm basilic vein.
13.Left forearm radiocephalic fistula placement.
14.Full-thickness skin graft to left forearm surgical
    incision with right thigh donor.

___:
PROCEDURE:  Left upper extremity venography, angioplasty of
left subclavian vein, angioplasty of left basilic vein.

___:
PROCEDURE:  Left innominate vein angioplasty.

System Review on discharge:

Neurologically: 
Alert and oriented times 3. Ambulating with minimal assistance. 
___ following for arm movement and therapy. Dilaudid ___ mg 
oral managing pain adequately. Left ankle pain resolved and able 
to fully weight bear. No fracture per Xray. In good spirits. 

Resp: Clear to auscultation. 

Cardiovascular: SR on telemetry. RRR, + S1, S2. No ectopy.

GI: Abdomen soft, nontender, nondistended. + BS X4. Regular BMS

GU: Voids clear, yellow urine.

Extremities: Pedal pulses palpable. Bilateral radial and ulnar 
pulses palpable. Left AV fistula + thrill

Sternal precautions for 8 weeks total post-op. Recommendations 
for occupational therapy: active and passive ROM of shoulder ARE 
FINE but want to avoid UE weight or band training and no 
pullups, pushups, bench/military or lat presses for 8 weeks
___ Plastics full restrictions on lower arm movement 

Anticoagulation: Discharged on 7.5mg of Coumadin for INR Goal 
___. Dr. ___ office to follow INR while patient 
living locally. ___. Factor Xa level checked whle 
inhouse- (0.49)

Emotional support: Mother very supportive. Social Work consulted 
during hospital stay for coping support. 

___: Seen during hospital stay. Recommend outpatient OT for 
further treatment.

Wound care: Left forearm- xerofoam with kerlex dressing daily 
per Plastics recommendations. 

Nutrition: Encourage po's, resorce breeze TID, low fat diet. 

Pain management:  Acetaminophen dosing to 1000mg to q8hrs. 
Dilaudid 2mg Q3 hours procviding adequate relief.

Discharged ___ with mother. Patient and mother aware of 
wound care. Will follow-up with Plastic,  Vascular and 
Thoracic's outpatient. Referral faxed to ___ for 
outpatient treatment. INR should be drawn at local lab and sent 
to ___ Vascular Surgery.

 
Medications on Admission:
None
 
Discharge Medications:
1. Clopidogrel 75 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
2. Senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day) as needed for constipation.  
3. Acetaminophen 500 mg Tablet Sig: Two (2) Tablet PO Q6H (every 
6 hours).  
4. Lorazepam 1 mg Tablet Sig: One (1) Tablet PO Q6H (every 6 
hours) as needed for anxiety/insomnia.  
5. Ferrous Sulfate 325 mg (65 mg Iron) Tablet Sig: One (1) 
Tablet PO DAILY (Daily).  
6. Ascorbic Acid ___ mg Tablet Sig: One (1) Tablet PO BID (2 
times a day).  
7. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO TID (3 
times a day) as needed for constipation.  
8. Bisacodyl 5 mg Tablet, Delayed Release (E.C.) Sig: Two (2) 
Tablet, Delayed Release (E.C.) PO DAILY (Daily) as needed for 
constipation.  
9. Simethicone 80 mg Tablet, Chewable Sig: 0.5 Tablet, Chewable 
PO BID (2 times a day) as needed for gas pain.  
10. Ranitidine HCl 150 mg Tablet Sig: One (1) Tablet PO BID (2 
times a day).  
11. Hydromorphone 2 mg Tablet Sig: ___ Tablets PO Q3H (every 3 
hours) as needed for pain.  
12. Warfarin 10 mg Tablet Sig: One (1) Tablet PO Once Daily at 4 
___.  
13. Cefazolin in Dextrose (Iso-os) 1 gram/50 mL Piggyback Sig: 
One (1) Piggyback Intravenous Q8H (every 8 hours).  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Left upper extremity DVT, Thoracic outlet syndrome

No significant PMH

 
Discharge Condition:
Stable

 
Discharge Instructions:
Post Surgery Wound Care 

 

Overview

  

Your doctor has placed sutures (stitches) to keep the incision 
closed for proper wound healing. Sometimes, sutures need to be 
removed in a few weeks. Sometimes, the sutures are all under the 
skin and will eventual dissolve on their own and do not need to 
be removed. 

 

In either case, please follow these routine wound care 
instructions.

 

Leave the original bandage that was applied at the time of your 
surgery in place for 48 hours. If the bandage should become 
loose, reinforce the dressing with surgical tape.

 

After approximately 48 hours, you can gently remove the bandage.

 

If you have steri-strips on your incision (little white paper 
tapes), keep them in place until they begin to fall off on their 
own. Do not pull the steri-strips off as this could put stress 
on the incision line. When the steri-strips start to peel off, 
they can be gently washed off.

 

Please try to keep the incision line clean and dry. You can 
shower and gently wash the incision line with soap and water. 
Dry the incision area and keep the incision line open to air.

 

It is not necessary to apply antibiotic ointment, alcohol, 
hydrogen peroxide, or a new bandage to the incision line. If 
your sutures get caught on your clothing or there is a small 
amount of drainage from the incision, you may want to cover it 
with small gauze for your own comfort. If so, please use as 
little tape as possible to hold the gauze in place as tape can 
irritate the skin.

 

A small amount of drainage from the incision in the first few 
days after surgery is not unusual and it will probably resolve 
on its own. However, if you should notice bleeding from the 
surgical site, apply firm direct pressure for ten minutes. If 
the bleeding persists, reapply firm direct pressure for an 
additional ten minutes. If the bleeding does not stop after 20 
minutes, call our contact phone numbers or go to the nearest 
emergency room for assistance.

 

What to Avoid  

 

Please avoid the following:

 

Do not submerge the incision line under water for a prolonged 
period of time with activities like taking a bath, swimming, or 
sitting in a hot tub.

 

Do not participate in any vigorous activities or exercises that 
may put stress on the incision. 

 

Do not take aspirin, ibuprofen, or any other nonsteroidal 
anti-inflammatory medication that may cause problems with 
bleeding unless instructed by your doctor.

 

Do not apply perfumes or scented lotions to the sutures as this 
may cause irritation.

 

When to Call the Doctor

  

Please contact us immediately if you develop:

 

Fevers, chills, or night sweats

 

Increasing redness, pain, or pus at the incision

 

Bleeding that does not stop with firm pressure

 

Followup Care 

 

If your sutures need to be removed, this is usually done ___ 
weeks after surgery. Even if your sutures will dissolve, the 
doctor usually likes to examine the incision while it is 
healing. Therefore, you should have been scheduled for a 
follow-up appointment in clinic at the time of your discharge 
from surgery. As this appointment is very important, please 
contact the clinic if you do not have one scheduled or you need 
to change the date and/or time.

 
Followup Instructions:
___